US06437130B1
Synthesis of 4,4′,4″,4″-tetraethyl-(2,2′;6′,2″;6″,2′″] quaterpyridine
In a flask, 500 ml of 4-ethyl pyridine which is commercially available and 20 g palladium carbon having a palladium content of 5% by weight were mixed. After a four-day reflux while the resulting mixture was stirred, the resulting mixture was filtered to eliminate palladium carbon. The resulting reaction product was distilled under reduced pressure to obtain the above identified quaterpyridine. In this example, 4,4′-diethyl-[2,2′]bypyridine and 4,4′,4″-triethyl-[2,2′;6′,2″]terpyridine were simultaneously produced and separated by the above distillation under reduced pressure.

reactant | quaterpyridine | N1=C(C=CC=C1)C1=NC=CC=C1C1=NC=CC=C1C1=NC=CC=C1 | C20H14N4
reactant | 4,4′,4″-triethyl-[2,2′;6′,2″]terpyridine | C(C)C1=CC(=NC=C1)C1=NC(=CC(=C1)CC)C1=NC=CC(=C1)CC | C21H23N3
reactant | 4-ethyl pyridine | 500 ml | C(C)C1=CC=NC=C1 | C7H9N
catalyst | palladium carbon | 20 g | [C].[Pd]
catalyst | palladium | [Pd] | Pd
product | 4,4′,4″,4″-tetraethyl-(2,2′;6′,2″;6″,2′″] quaterpyridine | C(C)C1=CC(=NC=C1)C1=NC(=CC(=C1)CC)C1=NC(=CC(C1)(CC)CC)C1=NC=CC=C1 | C28H32N4
